US04734123
N-(2,6-dichlorophenyl)-7-hydroxy-5-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide
A solution of 5.0 g (14.3 mmol) of N-(2,6-dichlorophenyl)-5-amino-1,2,4-triazol-3-sulfonamide, 0.5 ml of acetic acid, and 2.0 ml (15.6 mmol) of ethyl acetoacetate in 100 ml of absolute methanol was heated at reflux for 48 hr. After 24 hr a solid began to form. The solution was cooled and the solid collected. After drying, 4.0 g (75 percent) of the desired product was obtained as a white powder; mp 302° C. decomposes.

reactant | N-(2,6-dichlorophenyl)-5-amino-1,2,4-triazol-3-sulfonamide | 14.3 mmol, 5.0 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NNC(=N1)N | C8H7Cl2N5O2S
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetoacetate | 15.6 mmol, 2.0 ml | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | methanol | 100 ml | CO | CH4O
product | N-(2,6-dichlorophenyl)-7-hydroxy-5-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide | 4.0 g, 75 percent | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2O)C)=N1 | C12H9Cl2N5O3S
